US05434188
To a room temperature solution of 1,7-bis-(1-methylethoxy)-2-naphthalenecarboxylic acid (200 mg, 0.69 mmol) in 10 mL of THF is added N,N-carbonyldiimidazole (135 mg, 0.83 mmol). The solution is heated at reflux for 1 hour and cooled to room temperature. Aqueous NH4OH (4 mL) is added and the reaction mixture is stirred at room temperature for 30 minutes, then poured into ethyl acetate, and washed with aqueous NaHCO3 and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is recrystallized from methanol and water to provide 1,7-bis-(1-methylethoxy)-2-naphthalenecarboxamide in 40% yield; mp 145°-146° C.

reactant | 1,7-bis-(1-methylethoxy)-2-naphthalenecarboxylic acid | 0.69 mmol, 200 mg | CC(C)OC1=C(C=CC2=CC=C(C=C12)OC(C)C)C(=O)O | C17H20O4
reactant | N,N-carbonyldiimidazole | 0.83 mmol, 135 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 4 mL | [NH4+].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,7-bis-(1-methylethoxy)-2-naphthalenecarboxamide | 40% yield | CC(C)OC1=C(C=CC2=CC=C(C=C12)OC(C)C)C(=O)N | C17H21NO3
